Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Valium / Penicillins / Omeprazole Sodium / Morphine / 
Lisinopril / mango / papaya
 
Attending: ___
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:  
 Ms ___ is a ___ female with HCV (genotype 1a) and 
EtOH cirrhosis (child's class B) c/b ascites, esophageal 
varices, and hepatic encephalopathy, hx polysubstance abuse, 
COPD, HTN, and HLD presenting with complaint of abdominal 
distention, abnormal labs.  
 Over the past several days to weeks she has had ongoing 
worsening diffuse abdominal pain, distention. Yesterday she had 
an outpatient paracentesis in which 2.45 L fluid was removed, 
also had surveillance labs that were notable for an elevated 
creatinine of 1.4 (baseline 0.7). She was contacted by phone and 
advised to present to the emergency department for admission.  
 Of note, recent admissions to ___ ___ with abdominal 
pain, urinary retention, ___. Discharged off of diuretics given 
recurrent ___ with diuretic challenge. Additional admission 
___ with abdominal distention secondary to re-accumulating 
ascites, underwent therapeutic paracentesis with 6L fluid 
removed. Diuretics not 
 
Past Medical History:
Hepatitis C cirrhosis- genotype 1a decompensated with h/o
ascites; liver biopsy in ___ showed stage ___ fibrosis
Hypertension
Hyperlipidemia
COPD
Alcohol abuse
Depression
Cocaine abuse
Tobacco abuse
Atypical chest pain
Breast pain
Abdominal pain
Cervical spondylosis
L subclavian stenosis
Peripheral vascular disease
GERD s/p lap fundoplication and hiatal hernia repair ___
s/p cholecystectomy
s/p R inguinal hernia repair 
 
Social History:
___
Family History:
Mom had DM, CAD (COD), and was in a wheelchair for neuropathy.
Father had alcoholism and rectal CA (COD).
Sister has mental illness, also hx of falls. 
Siblings: 1 brother neonatal death, 1 brother death at 3 months, 

1 brother sudden death in ___.
 
Physical Exam:
Admission Physical Exams:
GENERAL: AOx3, NAD  
HEENT: Normocephalic, atraumatic. Pupils equal, round, and 
reactive bilaterally, extraocular muscles intact. Sclera 
anicteric.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops. No JVD.  
LUNGS: Decreased breath sounds in both bases b/l  
ABDOMEN: NABS, distended, periumbilical hernia present, pain 
with palpation of the hernia and pain with palpation of the R 
flank, no rebound or guarding. Hernia reducible.  
EXTREMITIES: Warm, well perfused. No ___ edema.  
NEUROLOGIC: Mild asterixis 

Discharge Exam:
GENERAL: AOx3, NAD  
HEENT: Normocephalic, atraumatic. Pupils equal, round, and 
reactive bilaterally, extraocular muscles intact. Sclera 
anicteric.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops. No JVD.  
LUNGS: Decreased breath sounds in both bases b/l  
ABDOMEN: NABS, distended, periumbilical hernia present, pain 
with palpation of the hernia and pain with palpation of the R 
flank, no rebound or guarding. Hernia reducible. 
EXTREMITIES: Warm, well perfused. No ___ edema.  
NEUROLOGIC: Mild asterixis  
 

 
Pertinent Results:
Admission Labs:
===============
___ 07:15AM BLOOD WBC-4.6 RBC-3.35* Hgb-9.4* Hct-30.9* 
MCV-92 MCH-28.1 MCHC-30.4* RDW-20.6* RDWSD-69.1* Plt ___
___ 01:16PM BLOOD Neuts-73.9* Lymphs-14.5* Monos-9.6 
Eos-1.1 Baso-0.4 Im ___ AbsNeut-4.18 AbsLymp-0.82* 
AbsMono-0.54 AbsEos-0.06 AbsBaso-0.02
___ 07:15AM BLOOD ___ PTT-39.2* ___
___ 07:15AM BLOOD Glucose-231* UreaN-45* Creat-1.4* Na-140 
K-5.2 Cl-108 HCO3-15* AnGap-17
___ 07:15AM BLOOD ALT-20 AST-45* AlkPhos-221* TotBili-1.0 
DirBili-0.5* IndBili-0.5
___ 07:15AM BLOOD Albumin-3.2*
___ 11:33PM BLOOD Lactate-2.4*

Microbiology:
=============
___ 1:10 pm BLOOD CULTURE
Blood Culture, Routine (Pending): 
___ 3:08 pm URINE
URINE CULTURE (Pending

Imaging:
========
CXR: ___
IMPRESSION:  
No acute cardiopulmonary process. 

Liver Gb US ___:
IMPRESSION:   
1. Main portal vein is patent with hepatopetal flow. 
2. Small volume ascites. 
3. Splenomegaly measuring up to 17.3 cm. 
4. Coarsened and nodular hepatic parenchyma consistent with 
history of 
cirrhosis.  No evidence of focal liver mass. 

  
Discharge Labs:
===============
___ 05:10AM BLOOD WBC-4.2 RBC-2.99* Hgb-8.7* Hct-27.6* 
MCV-92 MCH-29.1 MCHC-31.5* RDW-20.2* RDWSD-67.7* Plt Ct-95*
___ 05:10AM BLOOD ___ PTT-39.3* ___
___ 05:10AM BLOOD Glucose-124* UreaN-28* Creat-0.8 Na-141 
K-5.1 Cl-110* HCO3-20* AnGap-11
___ 05:10AM BLOOD ALT-22 AST-51* AlkPhos-216* TotBili-1.1
___ 05:10AM BLOOD Albumin-3.6 Calcium-8.7 Phos-3.0 Mg-2.5 
Iron-44
 
Brief Hospital Course:
Ms. ___ is a ___ with HCV (genotype 1a) and EtOH cirrhosis 
(child's class B) c/b ascites, varices, and hepatic 
encephalopathy, hx polysubstance abuse, COPD, HTN, and HLD 
referred to the ___ ED for ___ resolved without 
intervention. Of note, the patient had not yet received her 
sofosbuvir-velpatasvir (___), which will be started at her 
next ___ visit. 

ACUTE ISSUES: 
============= 
___ 
The patient ___ contacted to present to the ED after she was 
found to have a creatinine of 1.7 after having a scheduled 
therapeutic paracentesis. She received 25G albumin X 4 in ED. On 
recheck creatinine down trended to 0.8 which is the patients 
baseline. ___ may have been related to fluid removal given 
paracentesis prior to abnormal labs. Of note the patient is not 
maintained on diuretics due to recurrent ___ when trialed on 
diuretics. 

#ABDOMINAL DISTENTION 
#ABDOMINAL PAIN 
Patient notes chronic pain with history of hiatal hernia and R 
inguinal hernia and now with periumbilical hernia. She notes 
that periumbilical hernia is chronic. Her hernia was reducible. 
Lactate was elevated but was likely due to fluid shifts from 
paracentesis. She was seen by surgery in ___ and at 
that time, it was asymptomatic and surgery was not offered. 
Suspect that some of pain is also related to ascites. Lipase was 
normal. Pain was treated with lidocaine patch, tramadol. Surgery 
consultation was deferred given no concerns for worsening or 
incarceration, but could consider referral as outpatient. 

#HCV/ETOH CIRRHOSIS 
Patient with Child Class B cirrhosis followed by hepatology at 
___. MELD NA 13. She last saw liver service at the end of 
___. Recurrent ascites with last paracentesis on ___. 
Per last hepatology note she will continue to get weekly 
paracentesis and have biweekly labs. There was no tapable pocket 
of fluid on ED ultrasound to evaluate for SBP. She continued on 
home lactulose, rifamixin folic acid, thiamine.
Of note, the patient was due to start antiviral 
sofosbuvir-velpatasvir [___]. It has been confirmed that 
this will be started at her next liver clinic appointment later 
this month. 

#Polypharmacy:
The patient is on 25 medications. Her home medications were 
confirmed on filling history when speaking to pharmacy as well 
as to the patient. 

#Diuretics:
Patient last filed furosemide on ___. She has a history of 
recurrent ___ on diuretics and on recent admission was 
discontinue on diuretics with plan for weekly paracentesis. The 
patient was last seen a the ___ on ___ with no 
documented plan to resume diuretics. We will continue to hold 
furosemide at discharge with plan for ___ check at ___ visit 
next week.

CHRONIC ISSUES: 
=============== 
#COPD: Continued home inhalers: albuterol, tiotropium, 
fluticasone-salmeterol 

Transitional Issues:
===================
[] Patient will start sofosbuvir-velpatasvir [___] following 
next ___ appointment on ___. 
[] Recommend repeat BMP at ___ appointment on ___
[] Did not trial diuretics on patient given recurrent ___ in 
past
[] Evaluate periumbilical hernia as outpatient for consideration 
of outpatient surgical referral for elective hernia repair
[] Continue paracentesis as needed, biweekly labs
[] Last EGD ___, 3 cords of small varices were seen in the 
lower esophagus. No history of GI bleeding. Not on home 
naldolol.
[] HE: History of HE in past. Continue home lactulose and 
rifaxmin, titrate 3BMs per day
#CODE: Full 
#CONTACT: Fiance, ___ (___)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing 
2. Aspirin 81 mg PO DAILY 
3. Fluticasone Propionate NASAL 1 SPRY NU BID 
4. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
5. FoLIC Acid 1 mg PO DAILY 
6. HydrOXYzine 25 mg PO BID:PRN itch 
7. Lactulose 30 mL PO TID 
8. Multivitamins W/minerals 1 TAB PO DAILY 
9. Pantoprazole 40 mg PO Q12H 
10. Rifaximin 550 mg PO BID 
11. Simvastatin 20 mg PO QPM 
12. Thiamine 100 mg PO DAILY 
13. Tiotropium Bromide 1 CAP IH DAILY 
14. Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg 
(1,500 mg)-800 unit oral BID 
15. Nystatin Oral Suspension 5 mL PO QID 
16. Simethicone 40-80 mg PO QID 
17. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
18. Ondansetron ODT 4 mg PO Q8H:PRN nausea 
19. Pregabalin 150 mg PO BID 
20. Valsartan 320 mg PO DAILY 
21. amLODIPine 5 mg PO DAILY 
22. Escitalopram Oxalate 10 mg PO DAILY 
23. Zinc Sulfate 220 mg PO DAILY 
24. ___ (sofosbuvir-velpatasvir) 400-100 mg oral Daily 
25. Furosemide 40 mg PO DAILY 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing  
2.  amLODIPine 5 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg 
(1,500 mg)-800 unit oral BID  
5.  Escitalopram Oxalate 10 mg PO DAILY  
6.  Fluticasone Propionate NASAL 1 SPRY NU BID  
7.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
8.  FoLIC Acid 1 mg PO DAILY  
9.  HydrOXYzine 25 mg PO BID:PRN itch  
10.  Lactulose 30 mL PO TID  
11.  Multivitamins W/minerals 1 TAB PO DAILY  
12.  Nystatin Oral Suspension 5 mL PO QID  
13.  Ondansetron ODT 4 mg PO Q8H:PRN nausea  
14.  Pantoprazole 40 mg PO Q12H  
15.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
16.  Pregabalin 150 mg PO BID  
17.  Rifaximin 550 mg PO BID  
18.  Simethicone 40-80 mg PO QID  
19.  Simvastatin 20 mg PO QPM  
20.  Thiamine 100 mg PO DAILY  
21.  Tiotropium Bromide 1 CAP IH DAILY  
22.  Valsartan 320 mg PO DAILY  
23.  Zinc Sulfate 220 mg PO DAILY  
24. HELD- ___ (sofosbuvir-velpatasvir) 400-100 mg oral Daily 
 This medication was held. Do not restart ___ until you have 
your liver clinic appointment. 
25. HELD- Furosemide 40 mg PO DAILY  This medication was held. 
Do not restart Furosemide until you speak to your liver doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
==================
HCV/Alcoholic Cirrhosis
Abdominal Pain
Ascites

Chronic Issues:
Periumbilical Hernia
COPD
Hypertention

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure to care for you at the ___ 
___.  

Why did you come to the hospital?  
 -  Because your Creatinine, which looks at how well your 
kidneys are working, was not normal

What did you receive in the hospital?  
 - We gave you albumin and your Creatinine improved
- We called your pharmacy to make sure that you get your 
hepatitis C medication named ___. You can pick this up at 
the ___ once you are discharged 

What should you do once you leave the hospital?  
-  Please pick up your Hepatitis C medication named ___ at 
the ___ 

We wish you the best!  
Your ___ Care Team  

 
Followup Instructions:
___